US08426411B2
A mixture of (S)-1-(pyrrolidin-3-ylmethyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.160 g, 0.404 mmol, prepared using B from Preparation #A.1 and E with HCl), 2-chloro-5-cyanopyrazine (0.084 g, 0.60 mmol, ArkPharm) and DIEA (0.28 mL, 1.6 mmol) in n-PrOH (2.0 mL) was heated in a CEM microwave at about 150° C. for about 30 min (250 psi maximum pressure, 10 min maximum ramp, 200 maximum watts). The reaction mixture was cooled to ambient temperature and DCM (20 mL) was added. The solution was washed with water (20 mL) and brine (20 mL). The organic layer was separated, dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The residue was taken up in DCM (10 mL), adsorbed onto silica gel (1 g), and purified by silica gel chromatography eluting with 100% EtOAc to give a pink solid. The material was triturated with a mixture of EtOAc (10 mL) and 10% MeOH in DCM (10 mL). The insoluble material was collected by filtration to give (S)-5-(3-((6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)methyl)pyrrolidin-1-yl)pyrazine-2-carbonitrile as an off-white solid (0.056 g, 27%): LC/MS (Table 1, Method c) Rt=1.34 min; MS m/z: 500 (M+H)+.

reactant | (S)-1-(pyrrolidin-3-ylmethyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.404 mmol, 0.160 g | N1C[C@@H](CC1)CC1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C19H20N6O2S
reactant | 2-chloro-5-cyanopyrazine | 0.60 mmol, 0.084 g | ClC1=NC=C(N=C1)C#N | C5H2ClN3
reactant | DIEA | 1.6 mmol, 0.28 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | n-PrOH | 2.0 mL | C(CC)O | C3H8O
product | (S)-5-(3-((6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)methyl)pyrrolidin-1-yl)pyrazine-2-carbonitrile | 0.056 g, 27% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)C[C@H]1CN(CC1)C=1N=CC(=NC1)C#N | C24H21N9O2S
